* AD103 Lab 03, extension 3 - device D lengthened from 0.15 um to 0.5 um
*
* Same four-device deck as spice/wl_sweep.spice, with one number changed.
* Watch three things move together: vth, vdsat, and the drain current.

.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice.tt.red tt

XMA da g 0 0 sky130_fd_pr__nfet_01v8 L=1   W=5
XMB db g 0 0 sky130_fd_pr__nfet_01v8 L=1   W=10
XMC dc g 0 0 sky130_fd_pr__nfet_01v8 L=2   W=5
XMD dd g 0 0 sky130_fd_pr__nfet_01v8 L=0.5 W=1

Vgs g  0 1.8
Vda da 0 1.8
Vdb db 0 1.8
Vdc dc 0 1.8
Vdd dd 0 1.8

.control
op
print i(Vdd)
print @m.xmd.msky130_fd_pr__nfet_01v8[vth]
print @m.xmd.msky130_fd_pr__nfet_01v8[vdsat]
print @m.xmd.msky130_fd_pr__nfet_01v8[gm]
print @m.xmd.msky130_fd_pr__nfet_01v8[gds]
.endc
.end
